US04131646
9,10-Dihydro-9-methylanthracene was prepared by pressurizing a mixture of 2 g of 9-methylanthracene, 0.5 g of a barium-promoted copper chromite catalyst (Girdler G-22), and 3 ml of ethyl alcohol with hydrogen to 3000 psi at room temperature, followed by heating the mixture at a temperature of 150° C. for 1 hour with agitation. The product was characterized by nmr spectroscopy. The products of four such runs were combined, and the mixture was vacuum-distilled to give 9,10-dihydro-9-methylanthracene as a pale-yellow solid.

reactant | 9-methylanthracene | 2 g | CC=1C2=CC=CC=C2C=C2C=CC=CC12 | C15H12
reactant | barium | 0.5 g | [Ba] | Ba
reactant | hydrogen | [H][H] | H2
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
solvent | ethyl alcohol | 3 ml | C(C)O | C2H6O
product | 9,10-dihydro-9-methylanthracene | CC1C2=CC=CC=C2CC=2C=CC=CC12 | C15H14
